US08835426B2
2-(4-(benzyloxy)phenyl)oxirane (2 g, 8.8 mmol) and (1-adamantylmethyl)amine (1.46 g, 8.8 mol) were dissolved in isopropyl alcohol (30 mL) and heated under reflux overnight. The mixture was concentrated to give the crude product, which was purified by column chromatography to afford 1-(4-(benzyloxy)phenyl)-2-((1-adamantylmethyl)amino)ethanol (0.8 g, 23%). 1H NMR: (CDCl3, 400 MHz) δ=1.51 (m, 6H), 1.60-1.72 (m, 6H), 1.97 (m, 3H), 2.32&2.45 (dd, 2H), 2.64 (m, 1H), 2.73 (m, 1H), 2.94 (m, 1H), 3.40 (brs, 3H), 4.79 (m, 1H), 6.93 (m, 2H), 7.26-7.43 (m, 7H).

reactant | 2-(4-(benzyloxy)phenyl)oxirane | 8.8 mmol, 2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1OC1 | C15H14O2
reactant | (1-adamantylmethyl)amine | 8.8 mol, 1.46 g | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
solvent | isopropyl alcohol | 30 mL | C(C)(C)O | C3H8O
product | 1-(4-(benzyloxy)phenyl)-2-((1-adamantylmethyl)amino)ethanol | 0.8 g, 23% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CNCC12CC3CC(CC(C1)C3)C2)O | C26H33NO2
